US05576324
5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2-propenyl]-8-methylcarbostyril:
6-(1-Hydroxymethyl-2-propenyl)-5-hydroxy-8-methylcarbostyril (8.40 g, 34.3 mmol) was dissolved in pyridine (120 ml), to which tert-butyldimethylsilylchloride (7.5 g, 49.8 mmol) was added. The mixture was stirred at room temperature for 3 hours. Acetic anhydride (20 ml, 0.212 mol) was added to the reaction mixture, followed by stirring at room temperature for 90 minutes, then condensing under reduced pressure. The resultant residue was subjected to an azeotropic distillation along with toluene. The residue was extracted from chloroform--1N-HCl. The organic phase was washed with saturated aqueous NaCl solution, dried, and condensed under reduced pressure. The residue was purified by silica gel chromatography (chloroform: ether=1:1), and then the obtained crude crystals was recrystallized from chloroform--n-hexane. As a result, 6.00 g of the title compound was obtained as colorless powdery crystals (43.6%).

reactant | 6-(1-Hydroxymethyl-2-propenyl)-5-hydroxy-8-methylcarbostyril | 34.3 mmol, 8.40 g | OCC(C=C)C=1C(=C2C=CC(NC2=C(C1)C)=O)O | C14H15NO3
reactant | tert-butyldimethylsilylchloride | 49.8 mmol, 7.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Acetic anhydride | 0.212 mol, 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2-propenyl]-8-methylcarbostyril | 6.00 g | C(C)(=O)OC1=C2C=CC(NC2=C(C=C1C(C=C)CO[Si](C)(C)C(C)(C)C)C)=O | C22H31NO4Si
